US07420056B2
235 mg (2.5 mmol) of 2-aminopyridine were dissolved together with 0.42 ml (2.5 mmol) of 1,1,3,3-tetramethyl-butylisonitrile and 0.27 ml (2.5 mmol) of 5-bromothiophene-2-carbaldehyde in DCM (5 ml). After addition of perchloric acid (0.25 ml), the mixture was stirred at RT for 5 d. Washing was then performed with a sat. aq. sodium carbonate solution and a sat. aq. common salt solution. The organic phase was dried over magnesium sulfate, filtered and evaporated under a vacuum. After carrying out column chromatography (EA/DIPE/DCM 2:2:1) with the group, 724 mg (1.7 mmol, 71% of theoretical) of [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyridin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine were obtained.

reactant | 2-aminopyridine | 2.5 mmol, 235 mg | NC1=NC=CC=C1 | C5H6N2
reactant | 1,1,3,3-tetramethyl-butylisonitrile | 2.5 mmol, 0.42 ml | CC(CC(C)(C)C)(C)[N+]#[C-] | C9H17N
reactant | 5-bromothiophene-2-carbaldehyde | 2.5 mmol, 0.27 ml | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | perchloric acid | 0.25 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyridin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine | 1.7 mmol, 724 mg, 71% | BrC1=CC=C(S1)C=1N=C2N(C=CC=C2)C1NC(CC(C)(C)C)(C)C | C19H24BrN3S
